US05693635
N-[4-[(4,10-Dihydro-5H-thieno[3,2-c][1]benzazepin-5-yl)carbonyl]phenyl]-2-methylbenzamide
A mixture of 400 mg of 4,10-dihydro-5H-thieno[3,2-c][1]benzazepine and 700 mg of 4-[(2-methylbenzoyl)amino]benzoyl chloride is stirred in 30 ml of methylene chloride in the presence of 3 ml of triethylamine for 8 hours. The volatiles are removed in vacuo to give a residue which is partitioned between chloroform and water. The organic layer is dried (Na2 SO4) and the filtrate evaporated in vacuo to give a residue which is purified by column chromatography on silica gel by elution with 30% ethyl acetate-hexane to give 543 mg of the desired product. M+1=439.

reactant | 4,10-dihydro-5H-thieno[3,2-c][1]benzazepine | 400 mg | S1C=CC=2CNC3=C(CC21)C=CC=C3 | C12H11NS
reactant | 4-[(2-methylbenzoyl)amino]benzoyl chloride | 700 mg | CC1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C15H12ClNO2
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-[4-[(4,10-Dihydro-5H-thieno[3,2-c][1]benzazepin-5-yl)carbonyl]phenyl]-2-methylbenzamide | 543 mg | S1C=CC=2CN(C3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C)=O | C27H22N2O2S
